US04310699
The benzoinic condensation of terephthalaldehyde (625 g) with benzaldehyde (2000 g) is effected in conditions strictly identical to those of example 1, while using 300 g of potassium cyanide, which represents 50% of the stoichiometrical proportion. The yield of pure bis-benzoin is 1516 g (94%). This product, when oxidized, yields 90% of very pure 1,4-bis (phenylglyoxyloyl) benzene. The tetraketone yield thus averages 85% with respect to the reacted terephthalic aldehyde.

reactant | terephthalaldehyde | 625 g | C(C1=CC=C(C=O)C=C1)=O | C8H6O2
reactant | benzaldehyde | 2000 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium cyanide | 300 g | [C-]#N.[K+]
product | 1,4-bis (phenylglyoxyloyl) benzene | C1(=CC=CC=C1)C(C(=O)C1=CC=C(C=C1)C(C(=O)C1=CC=CC=C1)=O)=O | C22H14O4
